US09193692B2
B. 1-(2-Methoxyethyl)-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
1-(2-Methoxyethyl)-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (0.5 g, 1.348 mmol), 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (0.436 g, 1.348 mmol), tris(dibenzylidineacetone)dipalladium(0) (0.123 g, 0.135 mmol), tri-o-tolylphosphine (0.082 g, 0.270 mmol), triethylamine (0.584 mL, 4.04 mmol) and N,N-dimethylformamide (10 mL) were combined in a 75 mL sealable flask, the atmosphere in the flask was removed and replaced with nitrogen. The mixture was stirred at 130° C. for 3 h. The resulting mixture was cooled to room temperature and filtered. The organic layer was concentrated under reduced pressure. The resulting residue was diluted with methanol and dimethylsulfoxide, filtered and purified using reverse-phase preparatory HPLC (10-30% acetonitrile+0.1% TFA in water+0.1% TFA, over 30 min). Fractions containing clean product were passed through a Phenomenex Strata-X—C solid phase extraction column. The column was washed successively with water, acetonitrile, methanol and 5% ammonium hydroxide in methanol. The product eluted with the 5% ammonium hydroxide in methanol eluent and was concentrated under reduced pressure. The residue was triturated with ethyl ether in hexane to make a fine powder and dried under vacuum at 50° C. to give the desired product (0.05 g, 0.136 mmol, 10% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm) 8.10 (br. s., 1H), 7.98 (br. s., 1H), 7.94 (s, 1H), 7.73 (br. s., 1H), 4.13-4.28 (m, 4H), 3.55 (t, J=6.25 Hz, 2H), 3.24 (s, 3H), 2.70 (br. s., 3H); MS (ESI) m/z 367.2[M+1]+.

reactant | 1-(2-Methoxyethyl)-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1.348 mmol, 0.5 g | COCCN1C(CNC=2C1=NC(=CN2)[Sn](C)(C)C)=O
reactant | 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 1.348 mmol, 0.436 g | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
reactant | tri-o-tolylphosphine | 0.270 mmol, 0.082 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 4.04 mmol, 0.584 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(2-Methoxyethyl)-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.136 mmol, 0.05 g, 10% yield | COCCN1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN=CN2)C)=O | C17H18N8O2
